US07589105B2
N,N′-dimethyl-N,N′-bis(3-hydroxyphenyl)pyrimidine-4,6-diamine (Exemplified Compound No. 1-28)
This compound was obtained (yield 43%) based on the method described in Production Example 2B using 4,6-dichloropyrimidine instead of the 4,6-dichloro-2-ethylpyrimidine, and using 3-methylaminophenol instead of the 3-aminophenol.

reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3-methylaminophenol | CNC=1C=C(C=CC1)O | C7H9NO
product | N,N′-dimethyl-N,N′-bis(3-hydroxyphenyl)pyrimidine-4,6-diamine | yield 43% | CN(C1=NC=NC(=C1)N(C1=CC(=CC=C1)O)C)C1=CC(=CC=C1)O | C18H18N4O2
